US04065619
With cooling and stirring, 1.84 g. (0.0068 mole) of 7-ACA was suspended in 25 ml. of water and to the suspension was added dropwise 6.8 ml. of a 1N-aqueous solution of sodium hydroxide to dissolve 7-ACA. On the other hand, to a suspension of 1.5 g. (0.0068 mole) of α-sulfo-3-thienylacetic acid in 10 ml. of ether were added 5.5 ml. of thionyl chloride dropwise and 3 drops of dimethylformamide, then the resulting solution was stirred for 5 hours at room temperature. The reaction solution was subjected to the evaporation to dryness under reduced pressure to give α-sulfo-3-thienylacetyl chloride as a residue. The residue was dissolved in 10 ml. of ethyl acetate and the solution was added dropwise to the 7-ACA solution mentioned above, followed by stirring for 30 minutes. The aqueous layer was separated from the reaction solution and adjusted it pH to 6.5 by adding a saturated aqueous solution of NaHCO3. The resulting solution was freeze-dried to obtain 3.6 g. of a crude product. The product was purified according to column chromatography using Amberlite XAD-2 to obtain 1.6 g. (42%) of 7-(α-sulfo-3'-thienylacetamido)cephalosporanic acid.

reactant | 7-ACA | 0.0068 mole | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | α-sulfo-3-thienylacetic acid | 0.0068 mole | S(=O)(=O)(O)C(C(=O)O)C1=CSC=C1 | C6H6O5S2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | α-sulfo-3-thienylacetyl chloride | S(=O)(=O)(O)C(C(=O)Cl)C1=CSC=C1 | C6H5ClO4S2
